US08242280B2
In a microwave vial (6-bromo-pyridin-2-yl)-hydroxy-acetic acid methyl ester (430.9 mg, 1.75 mmol), 3-(2-Methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridine (842.3 mg, 1.75 mmol) in tetrahydrofuran/acetonitrile/1 N aqueous sodium bicarbonate (20 ml) was degassed with nitrogen and 1,1′-bis(diphenylphosphino)ferrocenepalladium(II)-dichloride dichloromethane adduct (143.0 mg, 0.18 mmol) was added and the vial sealed. This reaction mixture was irradiated to 80° C. for 30 minutes in a microwave reactor. 100 ml water was added and this mixture was extracted with ethyl acetate (3×). The combined organic layers were dried over magnesium sulfate and purified by silica gel chromatography to yield 5-hydroxy-{6-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-pyridin-2-yl}-acetic acid methyl ester as a white solid (319 mg, 35% yield). MS: m/z 521.6 (M+H+).

reactant | (6-bromo-pyridin-2-yl)-hydroxy-acetic acid methyl ester | 1.75 mmol, 430.9 mg | COC(C(O)C1=NC(=CC=C1)Br)=O | C8H8BrNO3
reactant | 3-(2-Methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridine | 1.75 mmol, 842.3 mg | COC1=C(C=CC=C1)C1=NN(C2=NC=C(C=C21)B2OC(C(O2)(C)C)(C)C)COCC[Si](C)(C)C | C25H36BN3O4Si
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran acetonitrile | 1 N, 20 ml | O1CCCC1.C(C)#N
product | 5-hydroxy-{6-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-pyridin-2-yl}-acetic acid methyl ester | 319 mg, 35% yield | COC(CC1=NC(=C(C=C1)O)C=1C=C2C(=NC1)N(N=C2C2=C(C=CC=C2)OC)COCC[Si](C)(C)C)=O | C27H32N4O5Si
